US04420487
Preparation of 5-Chloro-2-(4-Phenylbutyl)-6-Sulfamyl-1H-Benzimidazole
To 25 ml of 6 N hydrochloric acid was added 5.5 g of 2-amino-4-chloro-5-sulfamylaniline and 6.6 g of 5-phenylvaleric acid and the mixture refluxed for twenty-four hours. The gummy solid was collected by concentration in vacuo and then added to concentrated ammonium hydroxide. The suspension was stirred for twenty minutes, collected by filtration, and suspended in water at 50° C. The solid was collected by filtration, dissolved in methanol, brought to a boil, and charcoal added. The suspension was then filtered through two sheets of filter paper, cooled, and filtered through Celite. Recrystallization from acetonitrile provided 1.0 g of colorless crystals, m.p. 176°-180°.

reactant | hydrochloric acid | 6 N, 25 ml | Cl | ClH
reactant | 2-amino-4-chloro-5-sulfamylaniline | 5.5 g | NC1=C(N)C=C(C(=C1)Cl)S(N)(=O)=O | C6H8ClN3O2S
reactant | 5-phenylvaleric acid | 6.6 g | C1(=CC=CC=C1)CCCCC(=O)O | C11H14O2
product | 5-Chloro-2-(4-Phenylbutyl)-6-Sulfamyl-1H-Benzimidazole | 1.0 g | ClC1=CC2=C(NC(=N2)CCCCC2=CC=CC=C2)C=C1S(N)(=O)=O | C17H18ClN3O2S
